US07491710B2
Stage V: Preparation of 3-[1-tert-butoxycarbonyl-5-(2-morpholin-4-ylethoxy)-1H-indol-2-yl]-5-hydroxyindazole-1-carboxylic acid tert-butyl ester.
A solution of 740 mg of 5-benzyloxy-3-[1-tert-butoxycarbonyl-5-(2-morpholin-4-ylethoxy)-1H-indol-2-yl]indazole-1-carboxylic acid tert-butyl ester, of 328 mg of ammonium formate and of 234 mg of 10% palladium-on-charcoal in 56 ml of ethanol is heated at 70° C. for 35 minutes. The reaction mixture is then cooled to ambient temperature. The catalyst is filtered through paper and washed abundantly with ethanol to obtain 533 mg of the crude compound 3-[1-tert-butoxycarbonyl-5-(2-morpholin-4-ylethoxy)-1H-indol-2-yl]-5-hydroxyindazole-1-carboxylic acid tert-butyl ester.

reactant | 5-benzyloxy-3-[1-tert-butoxycarbonyl-5-(2-morpholin-4-ylethoxy)-1H-indol-2-yl]indazole-1-carboxylic acid tert-butyl ester | 740 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=1N(C2=CC=C(C=C2C1)OCCN1CCOCC1)C(=O)OC(C)(C)C | C38H44N4O7
reactant | ammonium formate | 328 mg | C(=O)[O-].[NH4+]
solvent | ethanol | 56 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 234 mg | [Pd] | Pd
product | 3-[1-tert-butoxycarbonyl-5-(2-morpholin-4-ylethoxy)-1H-indol-2-yl]-5-hydroxyindazole-1-carboxylic acid tert-butyl ester | 533 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)O)C=1N(C2=CC=C(C=C2C1)OCCN1CCOCC1)C(=O)OC(C)(C)C | C31H38N4O7
